US06541499B1
G. N1-[4-[2-(1-Pyrrolidinyl)ethoxy]benzyl]-1,2-benzenediamine
Adam's catalyst (50 mg, 20% wt.), was added to a degassed solution of N-[4-[2-(1-pyrrolidinyl)ethoxy]benzyl]-2-nitroaniline (240 mg, 0.703 mmol) in absolute ethanol (5 mL). The atmosphere was replaced with hydrogen then the reaction was stirred vigorously at ambient temperature until all of the nitro compound had been consumed as determined by tic (9:1 CHCl3:MeOH, 1% TEA). The reaction mixture was filtered through a bed of diatomaceous earth, then the solvent was removed under reduced pressure to give the desired product as a brown yellow oil (218 mg, 100%).

reactant | N-[4-[2-(1-pyrrolidinyl)ethoxy]benzyl]-2-nitroaniline | 0.703 mmol, 240 mg | N1(CCCC1)CCOC1=CC=C(CNC2=C(C=CC=C2)[N+](=O)[O-])C=C1 | C19H23N3O3
reactant | hydrogen | [H][H] | H2
catalyst | Adam's catalyst | 50 mg | O=[Pt]=O
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | N1-[4-[2-(1-Pyrrolidinyl)ethoxy]benzyl]-1,2-benzenediamine | 218 mg, 100% | N1(CCCC1)CCOC1=CC=C(CNC=2C(=CC=CC2)N)C=C1 | C19H25N3O
